US05498774
Synthesis of α-(2-phenyl-imidazo[1,2-a]pyridin-8-ylcarbonylamino)-(3-chlorophenyl)acetonitrile (Compound No. 2-35)
2-phenyl-imidazo[1,2-a]pyridine-8-carboxylic acid (1.0 g, 4.2 m moles), α-(3-chlorophenyl)-aminoacetonitrile (0.77 g, 4.6 m moles) and NaHCO3 (1.1 g, 13.1 m moles) were added to acetonitrile 110 ml). Phosphorus oxychloride (0.7 ml, 7.51 m moles, dissolved in 5 ml of acetonitrile) was added slowly to the mixture with stirring under ice-cooling. The mixture was reacted at room temperature for 10 hours, and the solvent was removed from the reaction mixture under reduced pressure. Water (50 ml) was added to the residue and the mixture was adjusted to pH 7 with saturated aqueous solution of sodium bicarbonate and then extracted with dichloromethane/ethyl acetate (10/1) (100 ml×2). The extract was dried over anhydrous magnesium sulfate and concentrated. Acetonitrile (5 ml) was added to the concentrate, and the precipitating crystals were collected by filtration to give the object compound (0.44 g, yield 27.2%) as crystals. m.p. 210°-211° C.

reactant | 2-phenyl-imidazo[1,2-a]pyridine-8-carboxylic acid | 1.0 g | C1(=CC=CC=C1)C=1N=C2N(C=CC=C2C(=O)O)C1 | C14H10N2O2
reactant | α-(3-chlorophenyl)-aminoacetonitrile | 0.77 g | ClC=1C=C(C=CC1)C(C#N)N | C8H7ClN2
reactant | NaHCO3 | 1.1 g | C(=O)(O)[O-].[Na+]
reactant | Phosphorus oxychloride | 0.7 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | acetonitrile | 110 ml | C(C)#N | C2H3N
product | α-(2-phenyl-imidazo[1,2-a]pyridin-8-ylcarbonylamino)-(3-chlorophenyl)acetonitrile | 0.44 g, yield 27.2% | C1(=CC=CC=C1)C=1N=C2N(C=CC=C2C(=O)NC(C#N)C2=CC(=CC=C2)Cl)C1 | C22H15ClN4O
